US08076329B2
A mixture of 1-(3-hydroxypropyl)pyrrolidine (400 mg), triphenylphosphine (812 mg) in toluene (18 mL) is stirred for five minutes at room temperature, 1-hydroxybiphenyl (493 mg) is then added. The mixture is cooled and diisopropyl azodicarboxylate (609 μL) is added. The mixture is stirred for 48 hours room temperature, concentrated under reduced pressure and diluted with ethyl acetate. The organic layer is washed with water and extracted with an aqueous 1N hydrochloric solution. The aqueous phase is washed with ethyl acetate, then made alkaline with an aqueous 5N sodium hydroxide solution and extracted twice with ethyl acetate. These extracts are pooled, dried over magnesium sulphate, concentrated under reduced pressure, diluted with diethyl oxide and mixed with a solution of oxalic acid (169 mg) dissolved in acetone. The precipitate is filtered, washed with diethyl oxide and dried to give 480 mg of 1-{3-[(biphenyl-4-yl)oxy]propyl}pyrrolidine, oxalate as a white solid melting at 201° C.

reactant | 1-(3-hydroxypropyl)pyrrolidine | 400 mg | OCCCN1CCCC1 | C7H15NO
reactant | triphenylphosphine | 812 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-hydroxybiphenyl | 493 mg | OC1(CC=CC=C1)C1=CC=CC=C1 | C12H12O
reactant | diisopropyl azodicarboxylate | 609 μL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | toluene | 18 mL | C1(=CC=CC=C1)C | C7H8
product | 1-{3-[(biphenyl-4-yl)oxy]propyl}pyrrolidine | 480 mg | C1(=CC=C(C=C1)OCCCN1CCCC1)C1=CC=CC=C1 | C19H23NO
